US06451810B1
N1-[4-(4-Amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzamide (1 g) was dissolved in isopropanol. Hydrochloric acid (1 eq of 12N) was added. The resulting precipitate was isolated by filtration to provide 1 g of N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzamide hydrochloride hydrate as a solid, m.p. 254-256° C. Analysis: Calculated for C21H21N5O.HCl.1.5 H2O: %C, 59.63; %H, 5.96; %N, 16.56; Found: %C 59.61; %H, 6.04; %N, 16.64. 1H NMR (500 MHz, DMSO-d6) δ13.80 (broad s, 1H), 9.15 (broad s, 2H), 8.56 (s, 1H), 8.50 (t, J=6.0 Hz, 1H), 8.23 (d, J=8.0 Hz, 1H), 7.83 (d, J=8.0 Hz, 1H), 7.76 (d, J=8.0 Hz, 2H), 7.71 (t, J=8.0 Hz, 1H), 7.53 (t, J=8.0 Hz, 1H), 7.50 (t, J=8.0 Hz, 1H), 7.42 (t, J=8.0 Hz, 2H), 4.72 (t, J=7.0 Hz, 2H), 3.30 (q, J=7.0 Hz, 2H), 1.93 (quintet, J=7.0 Hz, 2H), 1.61 (quintet, J=7.0 Hz, 2H).

reactant | N1-[4-(4-Amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzamide | 1 g | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CC=CC=C2)=O | C21H21N5O
reactant | Hydrochloric acid | 12N, 1 eq | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzamide hydrochloride hydrate | 1 g | O.Cl.NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CC=CC=C2)=O | InChI=1S/C21H21N5O.ClH.H2O/c22-20-18-19(16-10-4-5-11-17(16)25-20)26(14-24-18)13-7-6-12-23-21(27)15-8-2-1-3-9-15;;/h1-5,8-11,14H,6-7,12-13H2,(H2,22,25)(H,23,27);1H;1H2
